US04483855
Pivaloyloxymethyl 7-bromoacetylacetamido-3-methoxymethyl-3-cephem-4-carboxylate
168 mg of diketene were dissolved in 2 ml of methylene chloride and, whilst stirring the solution, it was cooled to -30° C. To the solution was then added dropwise a solution of 320 mg of bromine in 2 ml of methylene chloride, and the resulting mixture was added dropwise to a solution of 322 mg of pivaloyloxymethyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate and 299 mg of N,N-diethylaniline in 5 ml of methylene chloride, which had been cooled to -5° C. The mixture was left to stand for 30 minutes, after which it was concentrated by evaporation under reduced pressure. The residue was dissolved in 50 ml of ethyl acetate, washed, in turn, with 5 ml each of water, 5% w/v aqueous hydrochloric acid and a saturated aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulphate. The drying agent was filtered off and the filtrate was concentrated by evaporation under reduced pressure. The residue was chromatographed through a column containing 30 g of silica gel, eluted with a 1:1 by volume mixture of hexane and ethyl acetate, to give 288 mg of the title compound.

reactant | diketene | 168 mg | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 320 mg | BrBr | Br2
reactant | pivaloyloxymethyl 7-amino-3-methoxymethyl-3-cephem-4-carboxylate | 322 mg | NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OCOC(C(C)(C)C)=O)C1=O | C15H22N2O6S
reactant | N,N-diethylaniline | 299 mg | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Pivaloyloxymethyl 7-bromoacetylacetamido-3-methoxymethyl-3-cephem-4-carboxylate | 288 mg | BrCC(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OCOC(C(C)(C)C)=O)C1=O | C19H25BrN2O8S
